US07355049B2
Acetyl chloride (1 mL) was added to a cooled solution of methanol (10 mL) and the solution was allowed to warm to room temperature. Cycloleucine (Aldrich; 0.3 g, 2.3 mmol) was added and the solution was allowed to stir overnight at room temperature. The solvent was then evaporated to give cycloleucine methyl ester hydrochloride as an off-white solid which was then combined with 5-(biphenyl-4-yloxymethyl)-furan-2-carboxylic acid (of Intermediate 8; 0.085 g, 0.29 mmol), 1-ethyl-3-(3-dimethylaminopropyl)-carbodiimide hydrochloride (Avocado; 0.128 g, 0.67 mmol), and N,N-dimethylaminopyridine (0.16 g, 1.3 mmol) in tetrahydrofuran (5 mL). The reaction mixture was stirred at room temperature for 16 h. The solvents were evaporated under reduced pressure, and water and ethyl acetate were added. The aqueous phase was extracted three times with ethyl acetate, and the combined organic layers were dried (sodium sulfate), filtered, evaporated, and purified using a Biotage Flash 40 purification system, eluting with methylene chloride/acetone 9:1, to give 1-{[5-(biphenyl-4-yloxymethyl)-furan-2-carbonyl]-amino}-cyclopentanecarboxylic acid methyl ester as a colorless oil (0.085 g, 59%).

reactant | Acetyl chloride | 1 mL | C(C)(=O)Cl | C2H3ClO
reactant | Cycloleucine | 2.3 mmol, 0.3 g | NC1(CCCC1)C(=O)O | C6H11NO2
solvent | methanol | 10 mL | CO | CH4O
product | cycloleucine methyl ester hydrochloride | Cl.COC(C1(N)CCCC1)=O | InChI=1S/C7H13NO2.ClH/c1-10-6(9)7(8)4-2-3-5-7;/h2-5,8H2,1H3;1H
